US04785113
0.86 g (5 mmol) 4-chloro-2,3,5-trimethylpyridine N-oxide and 8.5 ml 2M sodium methoxide was heated in a closed vessel to 70° C. for 16 hrs. Gave after work up 92% yield of 4-methoxy-2,3,5-trimethylpyridine N-oxide. Addition of 20% dimethylsulfoxide to the solvent increases the reaction rate but complicates the work up. The product was obtained as a waxy solid. NMR: 2×3H, 2,25; 3H, 2,5(s); 3H, 3,80(s); 1H, 8,2(s). (CDCl3).

reactant | 4-chloro-2,3,5-trimethylpyridine N-oxide | 5 mmol, 0.86 g | ClC1=C(C(=[N+](C=C1C)[O-])C)C | C8H10ClNO
reactant | sodium methoxide | 2M, 8.5 ml | C[O-].[Na+]
product | 4-methoxy-2,3,5-trimethylpyridine N-oxide | 92% yield | COC1=C(C(=[N+](C=C1C)[O-])C)C | C9H13NO2
